US04159331
A mixture of 5.00 g (0.0142 m) of 1-[(p-nitrophenyl)sulfonyl]-4-(o-methylphenyl)piperazine, 0.3 g of platinum oxide, and 150 ml of chloroform is shaken under pressure on a Parr hydrogenator until hydrogen uptake ceases (25 minutes). The catalyst is removed on a fine sintered glass funnel and the filtrate is taken to dryness. Crystallization from ethyl acetate/methylene chloride/Skellysolve® B hexanes gives 2.66 g (57%) of 1-[(p-aminophenyl)-sulfonyl]-4-(o-methylphenyl)piperazine.

reactant | 1-[(p-nitrophenyl)sulfonyl]-4-(o-methylphenyl)piperazine | 5.00 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)C | C17H19N3O4S
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.3 g | [Pt]=O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[(p-aminophenyl)-sulfonyl]-4-(o-methylphenyl)piperazine | 2.66 g, 57% | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)C | C17H21N3O2S
